US04808616
Alternatively, a mixture of androst-4-ene-3,17-dione, thiophenol, 40% aqueous formaldehyde, triethylamine and ethanol was heated under reflux for a period of about 48 hours. The cooled solution was poured into an aqueous sodium hydroxide solution and the product isolated by ether extraction. The ether extracts were washed with water and dried over magnesium sulfate. The resulting residue was triturated with hexane to remove any condensation by-product derived from the thiophenol and formaldehyde. The 4-phenylthiomethylandrost-4-ene-3,17-dione so obtained was desulfurized by dissolving in acetone and adding to a suspension of Raney Nickel in refluxing acetone. The mixture was refluxed for about 5 hours under stirring. The hot solution was filtered and the catalyst washed with boiling ethanol and water. The combined filtrates were concentrated under vacuum whereupon the product separated as a solid mass. Recrystallization from acetone/hexane yielded 4-methylandrost-4-ene-3,17-dione. A mixture of sodium acetate (1 g), absolute chloroform (30 ml), formaldehyde diethyl acetal (30 ml, 0.24 mol), phosphoryl chloride (3.8 ml, 0.04 mol), and 4-methylandrost- 4-ene-3,17-dione (0.81 g, 2.7 mmol) was refluxed for about 7 hours, i.e. until the starting material has disappeared. The suspension was allowed to cool and under vigorous stirring a saturated sodium carbonate solution was added dropwise until the pH of the aqueous layer became alcaline (~1 hour). The organic layer was separated, neutralized with water, and dried over sodium sulfate. After concentration under reduced pressure the oily residue was purified by chromatography on silica gel using hexane/ethylacetate as eluent.

reactant | androst-4-ene-3,17-dione | C[C@@]12C(CC[C@H]1[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)=O | C19H26O2
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | formaldehyde | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-phenylthiomethylandrost-4-ene-3,17-dione | C1(=CC=CC=C1)SCC1=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)=O | C26H32O2S
